US07087750B2
1-[(2,4-Difluorophenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 2,4-di-fluorophenylsulfonylchloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.41 (br, 1 H), 8.24 (m, 1 H), 7.75 (m, 1 H), 7.58 (m, 1 H), 7.47–7.33 (m, 2 H), 7.23 (t, J=8 Hz, 1 H), 6.99 (d, J=5 Hz, 1 H), 6.70 (d, J -8 Hz, 1 H), 3.25 (m, 8 H). MS (ESI+) for m/z 378 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 2,4-di-fluorophenylsulfonylchloride | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 1-[(2,4-Difluorophenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole Hydrochloride | Cl.FC1=C(C=CC(=C1)F)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C18H17F2N3O2S.ClH/c19-13-4-5-18(15(20)12-13)26(24,25)23-9-6-14-16(2-1-3-17(14)23)22-10-7-21-8-11-22;/h1-6,9,12,21H,7-8,10-11H2;1H
